US05459138
EXAMPLE 35: 6-CHLORO-3-METHYL-4H-PYRIDO[4,3-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE
0.2 g of 4-amino-5-acetylaminosulfonyl-2- chloropyridine (Preparation 19) is introduced into an open round-bottomed flask placed on an oil bath at 240° C. The temperature of the oil bath is brought over a period of a half-hour from 240° C. to 270° C. The molten mass is then cooled. It is dissolved in 4 cm3 of a tepid NaHCO3 solution (2% m/v). The solution is decolored with absorbing charcoal, filtered and then adjusted to a pH of 4 using formic acid. The crystalline precipitate obtained is collected on a filter, washed with water and dried.

reactant | 4-amino-5-acetylaminosulfonyl-2- chloropyridine | 0.2 g | NC1=CC(=NC=C1S(=O)(=O)NC(C)=O)Cl | C7H8ClN3O3S
reactant | charcoal | C | CH4
solvent | NaHCO3 | 4 cm3 | C(=O)(O)[O-].[Na+]
product | 6-CHLORO-3-METHYL-4H-PYRIDO[4,3-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE | ClC1=CC=2NC(=NS(C2C=N1)(=O)=O)C | C7H6ClN3O2S
